US07776897B2
1-[4-Methyl-5-(2-methylphenyl)-1,2,4-triazol-3-yl]cyclopentanamine (263 mg) was dissolved in chloroform (5 ml) and then diisopropylethylamine (1.7 ml) and phenyl isocyanate (0.43 ml) were added thereto, followed by stirring at room temperature for 90 minutes. The reaction solution was diluted with a saturated aqueous sodium bicarbonate solution, followed by extraction with chloroform (10 ml×2). The organic layer was dried over anhydrous sodium sulfate and filtered and then the solvent was removed by evaporation under reduced pressure. The resulting residue was purified by column chromatography (methanol:chloroform=1:19) and the resulting solid washed with ethyl acetate to obtain 68 mg of 1-{1-[4-methyl-5-(2-methylphenyl)-1,2,4-triazol-3-yl]cyclopentyl}-3-phenylurea (white solid).

reactant | 1-[4-Methyl-5-(2-methylphenyl)-1,2,4-triazol-3-yl]cyclopentanamine | 263 mg | CN1C(=NN=C1C1=C(C=CC=C1)C)C1(CCCC1)N | C15H20N4
reactant | diisopropylethylamine | 1.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phenyl isocyanate | 0.43 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-{1-[4-methyl-5-(2-methylphenyl)-1,2,4-triazol-3-yl]cyclopentyl}-3-phenylurea | 68 mg | CN1C(=NN=C1C1=C(C=CC=C1)C)C1(CCCC1)NC(=O)NC1=CC=CC=C1 | C22H25N5O
